US06476247B1
Bis(cyclopentadienyl)ruthenium (3 g), acetic anhydride (10 ml), and 85% phosphoric acid (2.0 ml) were placed in a round-bottom flask, and the mixture was heated at 85° C. for one hour. The formed reaction product was neutralized by use of sodium hydroxide, recrystallized, and subjected to extraction by use of hexane, thereby yielding 1.8 g of (acetylcyclopentadienyl)cyclopentadienylruthenium.

reactant | Bis(cyclopentadienyl)ruthenium | 3 g | C1(C=CC=C1)[Ru]C1C=CC=C1
reactant | phosphoric acid | 2.0 ml | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (acetylcyclopentadienyl)cyclopentadienylruthenium | 1.8 g | C(C)(=O)C1(C=CC=C1)[Ru]C1C=CC=C1 | InChI=1S/C7H7O.C5H5.Ru/c1-6(8)7-4-2-3-5-7;1-2-4-5-3-1;/h2-5H,1H3;1-5H;
